US08012976B2
5-Fluoro-9-(1-methyl-1H-1,2,4-triazol-5-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
To a solution of ethyl 7-fluoro-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (186 mg, 0.47 mmol) in methanol (1 mL) was added hydrazine monohydrate (0.5 mL), and the mixture was stirred at 25° C. for 15 hr. Then the mixture was filtered to obtain a white solid (40 mg, yield 24%). LC-MS (ESI) m/z: 363 (M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 3.63 (s, 3H), 4.94-5.03 (m, 2H), 6.91-6.94 (dd, J1=11.6 Hz, J2=2.4 Hz, 1H), 7.05-7.08 (dd, J1=9.6 Hz, J2=2.4 Hz, 1H), 7.29-7.35 (m, 3H), 7.42-7.48 (m, 2H), 7.74 (s, 1H), 7.79 (s, 1H), 12.34 (s, 1H).

reactant | ethyl 7-fluoro-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.47 mmol, 186 mg | FC=1C=C(C=2C(C(C(NC2C1)C1=CC=CC=C1)C1=NC=NN1C)=O)C(=O)OCC | C21H19FN4O3
reactant | hydrazine monohydrate | 0.5 mL | O.NN
solvent | methanol | 1 mL | CO | CH4O
product | 5-Fluoro-9-(1-methyl-1H-1,2,4-triazol-5-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 40 mg, yield 24% | FC=1C=C2C=3C(=NNC(C3C1)=O)C(C(N2)C2=CC=CC=C2)C2=NC=NN2C | C19H15FN6O
